US05635571
A mixture of octyl cyanide (75.0 g, 0.539 mol), anhydrous zinc acetate (2.47 g, 0.0134 mol) and 1-butanol (270 ml) was stirred at 120° C. under nitrogen. To this mixture was dropwisely added 2-hydroxyethyl amine (39.5 g, 0.647 mol) in 20 min., and the resulting mixture was stirred at 120° C. for 40 h. The resulting admixture was distilled under reduced pressure three times. The fraction at 75°-80° C./0.2 mm Hg was collected to give 2-octyl-2-oxazoline as a colorless liquid (46 g, 47% yield). The product was again distilled under reduced pressure from calcium hydride: 1H NMR (CDC13) delta 0.88 (5, J=6.6 Hz, 3H, CH3), 1.29 (m, 10H, CH2X8), 1.63 (t of t, J=6.6 and 6.9 Hz, 2H, CH2), 2.26 (t, J=7.2 Hz, 2H, CH2), 3.82 (t, J=9.6 Hz, 2H, CH20), and 4.22 (t, J=9.6, 2H, CH2N).

reactant | octyl cyanide | 0.539 mol, 75.0 g | C(CCCCCCC)C#N | C9H17N
reactant | 2-hydroxyethyl amine | 0.647 mol, 39.5 g | OCCN | C2H7NO
catalyst | zinc acetate | 0.0134 mol, 2.47 g | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | 1-butanol | 270 ml | C(CCC)O | C4H10O
product | 2-octyl-2-oxazoline | 46 g, 47% yield | C(CCCCCCC)C=1OCCN1 | C11H21NO
